US06440995B1
4-Chloro-2-(3-chloro-4-methyl-phenyl)-quinoline
The title compound, m. p. 115-116° C., MS: m/e=288 (M+), was prepared from 4-chloroquinoline and 2-chloro-4-iodo-toluene.

reactant | 4-chloroquinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 2-chloro-4-iodo-toluene | ClC1=C(C=CC(=C1)I)C | C7H6ClI
product | 4-Chloro-2-(3-chloro-4-methyl-phenyl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C1=CC(=C(C=C1)C)Cl | C16H11Cl2N
